Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14],-1.61454403535
[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-5.22755809266
[O:1]=[C:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11],-0.20209786069
[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.11245592348
[C:1]#[C:2][O:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:8]([H:9])([H:10])[H:11].[O:6][H:7],5.21373924783
[H:1][O:2][C:3]([C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([C:4]([H:5])=[C:6][H:7])=[C:11]([H:12])[H:13],6.7219088307
[H:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11],-1.22117444778
[H:1][O:2][C:3]=[C:11]([H:12])[H:13].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-1.21523197724
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5],-1.07442504564
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[O:11],1.77345439444
[O:1]=[C:2]([C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:10]([H:11])([H:12])[H:13],1.50414630939
[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.7527624072400014
[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][H:11].[O:1][O:2][C:3][H:4]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10][H:11],-7.543264462839999
[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-7.18238544153
[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],8.02050736287
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:7].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],1.98798042418
[H:13].[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-2.87821671819
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[O:1][C@:2]([H:3])([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.1913918579809999
[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15],-1.77326521252
[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-2.96576426999
[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[H:11].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:12]([H:13])([H:14])[H:15],4.31415918569
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.56339685949
[O:1][C:2]#[C:3][C:4][C:5]([H:6])[O:7][H:8]>>[H:8].[O:1][C:2]#[C:3][C:4][C:5]([H:6])=[O:7],3.14163632274
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-1.13634941924
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[C:1]#[C:2].[C:3][C:4]([H:5])([H:6])[O:7][H:8],7.71784474195
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])=[C:13]([H:14])[H:15],1.97935167037
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:12].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:13][H:14],4.22964401067
